Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])[H:9].[H:1][O:2][C:3][O:4][C:5]#[C:6]>>[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])[H:9],-7.248831984439999
[C:2]([H:3])=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],-6.65495059656
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.93586794888
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[C:7]([H:8])([H:9])[H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:6],1.7743738125
[C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.29720836557
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:8]/[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:7],3.06986366879
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2][C:3][C:4]([H:8])([H:9])[H:10].[O:5]([H:6])[C:7],3.91169340258
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7][C:8]([H:9])([H:10])[O:11][H:12],-2.03101292122
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9].[H:1],5.50029598112
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.93107878437
[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[H:12],1.03100294096
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:10]([H:11])[H:12].[O:8][H:9],6.33077457452
[H:1][C:2]([O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]1([H:11])[H:12],-0.1057293839399999
[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:10].[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9],4.74198901024
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])[C:9]#[C:10][H:11],0.478717209819
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11][H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-5.13625988562
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][O:3][C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.2480570394700004
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3],5.507718323730002
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.30103738292
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[O:4][H:5],5.99447842099
[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])=[O:7])[C:12]([H:13])([H:14])[H:15],1.0638175686799998
[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-6.554469438019999
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],1.2085477910299998
[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],0.3492729686509999
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:12]([H:13])[H:14],2.83099366477
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-4.2836108535
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5][H:6].[H:7],4.3379153317800005
[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7],4.7969310155
